US06326369B1
2,3-Dimethoxy-7-[2-(3-pyridyloxy)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a mixture of 3-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]pyridine (470 mg), pyridine-2,6-dicarboxylic acid (607 g), THF (10 ml), and water (5 ml) was added an water (5 ml) solution of CAN (2.65 g) with cooling with ice. After being stirred for 15 min, the reaction mixture was diluted with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, water, and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (ethyl acetate) and then with recrystallization from hexane-ethyl acetate to obtain the entitled compound (310 mg).

reactant | 3-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]pyridine | 470 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCOC=2C=NC=CC2)OC)OC)OC | C22H29NO5
reactant | pyridine-2,6-dicarboxylic acid | 607 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | CAN | 2.65 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 2,3-Dimethoxy-7-[2-(3-pyridyloxy)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 310 mg | COC1=C(C(C2=C(CCC(CC2)CCOC=2C=NC=CC2)C1=O)=O)OC | C20H23NO5
